US08431573B2
4-(7,11-Dioxa-3-azaspiro[5.5]undec-3-yl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile
In analogy to the preparation of Example 1, 100 mg (0.38 mmol) of 4-(methylsulphanyl)-6-oxo-2-(3-thienylmethyl)-4,6-dihydropyrimidine-5-carbonitrile are reacted with 597 mg (3.80 mmol) of 1,5-dioxa-9-azaspiro[5.5]undecane to give 86 mg (61% of theory) of the title compound.

reactant | 4-(methylsulphanyl)-6-oxo-2-(3-thienylmethyl)-4,6-dihydropyrimidine-5-carbonitrile | 0.38 mmol, 100 mg | CSC1N=C(NC(C1C#N)=O)CC1=CSC=C1 | C11H11N3OS2
reactant | 1,5-dioxa-9-azaspiro[5.5]undecane | 3.80 mmol, 597 mg | O1CCCOC12CCNCC2 | C8H15NO2
product | 4-(7,11-Dioxa-3-azaspiro[5.5]undec-3-yl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile | C1CN(CCC12OCCCO2)C=2N=C(NC(C2C#N)=O)CC2=CSC=C2 | C18H20N4O3S
